US05580883
A mixture of m-fluoronitrobenzene (9 g) and piperidine (40 ml) was heated with stirring at 100° C. for 15 hours and to the mixture were added ethyl acetate ester (100 ml) and aqueous saturated solution of potassium carbonate (100 ml). The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain N-(3-nitrophenyl)piperidine (13.5 g) as a yellow oily compound.

reactant | m-fluoronitrobenzene | 9 g | FC=1C=C(C=CC1)[N+](=O)[O-] | C6H4FNO2
reactant | piperidine | 40 ml | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 100 ml | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-nitrophenyl)piperidine | 13.5 g | [N+](=O)([O-])C=1C=C(C=CC1)N1CCCCC1 | C11H14N2O2
